US07060844B2
To a solution of 3-(6-Amino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one (50.0 mg, 0.189 mmol) and N,N-diisopropylethylamine (65.8 μL, 0.378 mmol) in 2.0 mL THF was added iodomethane (12.9 μL, 0.208 mmol). After stirring at room temperature for 21 h, silver triflate (53.4 mg, 0.208 mmol) was added and the mixture heated at 45° C. for 16 h. The mixture was partitioned between EtOAc and saturated NaHCO3 and the organic separated. The organic layer was washed with H2O, brine and then dried with Na2SO4. The solution was evaporated in vacuo and the residue purified by chromatography (silica gel, 2% MeOH/CHCl3) to give 3-(6-Dimethylamino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one (3.6 mg) as a yellow solid.

reactant | 3-(6-Amino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one | 0.189 mmol, 50.0 mg | NC1=CC=C2COC(C2=C1)=C1C(NC2=CC=CC=C12)=O | C16H12N2O2
reactant | N,N-diisopropylethylamine | 0.378 mmol, 65.8 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | iodomethane | 0.208 mmol, 12.9 μL | IC | CH3I
reactant | THF | 2.0 mL | C1CCOC1 | C4H8O
catalyst | silver triflate | 0.208 mmol, 53.4 mg | [O-]S(=O)(=O)C(F)(F)F.[Ag+]
product | 3-(6-Dimethylamino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one | 3.6 mg | CN(C1=CC=C2COC(C2=C1)=C1C(NC2=CC=CC=C12)=O)C | C18H16N2O2
